US06967196B1
4-chloro-N-[2,5-dichlorophenyl]-N-[4-[[N-(cyclopentyl)methylamino]sulfonyl]-1(R)-methylbutyl]benzenesulfonamide was prepared analogous to 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide by reacting (4R)-4-[2,5-dichlorophenyl][4-chlorophenyl)sulfonyl]-amino]pentylsulfonyl chloride with N-(cyclopentyl)-methylamine. Yield=15%; MS (ESI+), 567 (M+H)+.

reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NC)C)C1=C(C=CC(=C1)Cl)Cl | C18H21Cl3N2O4S2
reactant | pentylsulfonyl chloride | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | N-(cyclopentyl)-methylamine | C1(CCCC1)NC | C6H13N
product | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[[N-(cyclopentyl)methylamino]sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | Yield=15% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NCC1CCCC1)C)C1=C(C=CC(=C1)Cl)Cl | C23H29Cl3N2O4S2
